US07622583B2
A freshly oven dried 250 mL round-bottom flask was charged with 2-iodo-3-nitro-5-chloro-pyridine (1.41 g, 5.0 mmol). The resultant solution was cooled to −78° C. under N2 and PhMgCl (2 M, 3 mL, 6.0 mmol) added and then stirred at the same temperature for 30 min. 3-Fluorobenzaldehyde (1.24 g, 10 mmol) was added and the resulting mixture stirred at −78° C. for two hours and then at room temperature for 24 h. The reaction was quenched with NH4Cl (sat), extracted with EtOAc, washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was further purified through automated normal-phase chromatography to afford 5-chloro-3-nitropyridin-2-yl)(3-fluorophenyl)methanol (560 mg, 40%) which was used directly for the next step: 1H NMR (400 MHz, CDCl3) δ 8.85 (d, 1 H), 8.37 (d, 1 H), 7.23 (m, 1 H), 7.06 (dd, 1 H), 6.95 (dd, 1 H), 6.43 (d, 2H), 4.99 (d, 1 H); MS (ES) (M+−OH) expect 265.0, found 265.1.

reactant | 2-iodo-3-nitro-5-chloro-pyridine | 5.0 mmol, 1.41 g | IC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2ClIN2O2
reactant | PhMgCl | 6.0 mmol, 2 M, 3 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | 3-Fluorobenzaldehyde | 10 mmol, 1.24 g | FC=1C=C(C=O)C=CC1 | C7H5FO
product | (3-fluorophenyl)methanol | 560 mg, 40% | FC=1C=C(C=CC1)CO | C7H7FO
